US08067448B2
To a solution of 4-cyano-N′-((2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoyl)benzohydrazide (320 mg, 0.76 mmol) in DMF (10 mL) was added imidazole (208 mg, 3.06 mmol) and TBSCl (230 mg, 1.53 mmol) at 0° C. After addition, the mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched by adding ice-water and extracted with EtOAc. The EtOAc extracts were washed with water, brine and dried over Na2SO4. Removal of the solvent gave a residue, which was purified by SiO2 column to afford N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(7-cyanobenzo[b]thiophen-4-ylamino)butanoyl)-4-cyanobenzohydrazide (380 mg, 93%). 1H NMR (400 MHz, CDCl3, δ in ppm) 9.28 (b, 1H), 8.63 (b, 1H), 7.77 (d, J=8.4 Hz, 2H), 7.63 (d, J=8.4 Hz, 2H), 7.45 (d, J=8.2 Hz, 1H), 7.42 (d, J=5.6 Hz, 1H), 7.23 (d, J=5.6 Hz, 1H), 6.35 (d, J=8.2 Hz, 1H), 5.59 (d, J=5.9 Hz, 1H), 4.44 (m, 1H), 4.01 (m, 1H), 1.14 (d, J=6.3 Hz, 3H), 0.83 (s, 9H), 0.03 (s, 3H), 0.00 (s, 3H).

reactant | 4-cyano-N′-((2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoyl)benzohydrazide | 0.76 mmol, 320 mg | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=CC=C(C=3SC=CC32)C#N)=O)C=C1 | C21H17N5O3S
reactant | imidazole | 3.06 mmol, 208 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 1.53 mmol, 230 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(7-cyanobenzo[b]thiophen-4-ylamino)butanoyl)-4-cyanobenzohydrazide | 380 mg, 93% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=CC=C(C=2SC=CC21)C#N)C | C27H31N5O3SSi
